US04778629
107 parts by weight of 96% sulfuric acid are added dropwise within 30 minutes to 94 parts by weight of phenol at a temperature between 40° and 50° C. The mixture is then stirred for a further 2 hours at 80° C. and 182 parts by weight of isononanoic acid chloride are then added dropwise at 40° to 45° C. within 1 hour and the mixture is stirred for 1 further hour. This gives an isononanoyloxybenzenesulfonic acid having an AS content of 40% which further drops on standing at 25° C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | isononanoic acid chloride | C(CCCCCC(C)C)(=O)Cl | C9H17ClO
product | isononanoyloxybenzenesulfonic acid | C(CCCCCC(C)C)(=O)OC1=C(C=CC=C1)S(=O)(=O)O | C15H22O5S
